US06806265B2
e) Methyl 4-{{4-[2-(1-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylbenzoyl}amino}benzoate
A solution of 4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylbenzoyl chloride (47.0 mg, 0.11 mmol), methyl 4-aminobenzoate (15.8 mg, 0.11 mmol) and Et3N (15.3 μL, 0.11 mmol) in CH2Cl2 (4 mL) was stirred at 25° C. for 5 h. The reaction mixture was diluted with EtOAc and the resulting solution was successively washed with aqueous saturated NaHCO3 solution and brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (Hexane:EtOAc, 1:1) to give the title compound (45 mg, 76% yield) as a white solid.

reactant | 4-[2-(11-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylbenzoyl chloride | 0.11 mmol, 47.0 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=C(C=C(C(=O)Cl)C=C3)C)=O)C)C=CC=N2 | C24H23ClN4O3
reactant | methyl 4-aminobenzoate | 0.11 mmol, 15.8 mg | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | Et3N | 0.11 mmol, 15.3 μL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 4-{{4-[2-(1-ethyl-6,11-dihydro-5-methyl-6-oxo-5H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-8-yl)ethoxy]-3-methylbenzoyl}amino}benzoate | 45 mg, 76% yield | C(C)N1CC=CC=2N(C(C3=C(NC21)N=CC(=C3)CCOC3=C(C=C(C(=O)NC2=CC=C(C(=O)OC)C=C2)C=C3)C)=O)C | C32H33N5O5
